US06326369B1
N-Methyl-2-(8-hydroxyoctyl)-5,6-dimethoxy-4,7-dioxo-2-indancarboxamide
A water (1.0 ml) solution of CAN (828 mg, 1.51 mmols) was dropwise added to an acetonitrile (5.0 ml) solution of N-methyl-2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxamide (255 mg, 0.602 mmols), with cooling with ice, and stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried. The solvent was evaporated in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:2) followed by recrystallization from ethyl acetate to obtain the entitled compound (106 mg) as crystals.

reactant | CAN | 1.51 mmols, 828 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 5.0 ml | C(C)#N | C2H3N
reactant | N-methyl-2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxamide | 0.602 mmols, 255 mg | CNC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCCO | C23H37NO6
solvent | Water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | N-Methyl-2-(8-hydroxyoctyl)-5,6-dimethoxy-4,7-dioxo-2-indancarboxamide | 106 mg | CNC(=O)C1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)CCCCCCCCO | C21H31NO6
